US04008250
Reaction of the ethyl 4-carbamoyl-2,4,5,6-tetrahydro-1,3,4,6,6-pentamethylcyclopenta[c]pyrrole-2-acetate described above in Example 20AC with alcoholic sodium hydroxide and isolation of the product from an acid or neutral medium affords 4-carbamoyl-2,4,5,6-tetrahydro-1,3,4,6,6-pentamethylcyclopenta[c]pyrrole-2-acetic acid.

reactant | ethyl 4-carbamoyl-2,4,5,6-tetrahydro-1,3,4,6,6-pentamethylcyclopenta[c]pyrrole-2-acetate | C(N)(=O)C1(CC(C2=C(N(C(=C21)C)CC(=O)OCC)C)(C)C)C | C17H26N2O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-carbamoyl-2,4,5,6-tetrahydro-1,3,4,6,6-pentamethylcyclopenta[c]pyrrole-2-acetic acid | C(N)(=O)C1(CC(C2=C(N(C(=C21)C)CC(=O)O)C)(C)C)C | C15H22N2O3
